US08754073B2
55.2 N4-methylpyridin-3,4-diamine
2.3 g methyl-(3-nitropyridin-4-yl)-amine are hydrogenated in 50 ml of methanol for and with 0.8 g Raney nickel for 2.5 h at 50° C. and 50 psi hydrogen pressure. The catalyst is filtered off and the filtrate is evaporated to dryness. The product is purified by chromatography (Alox, dichloromethane/methanol from 99/1 to 19/1). 1.55 g product are obtained as a solid.

reactant | methyl-(3-nitropyridin-4-yl)-amine | 2.3 g | CNC1=C(C=NC=C1)[N+](=O)[O-] | C6H7N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 0.8 g | [Ni] | Ni
product | N4-methylpyridin-3,4-diamine | 1.55 g | CNC1=C(C=NC=C1)N | C6H9N3
